Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bilateral lower extremity swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old man with past medical history of 
asthma, recent intranasal cocaine use who presented to the ED as 
a transfer from ___ after having two days of chest 
pressure and heaviness as well as pleuritic chest pain and 
bilateral lower extremity swelling. 

Patient states he has had a dry cough and URI symptoms for the 
last few days. He also states he did use intranasal cocaine 
about 4 days ago. Two days ago he developed dull chest pain deep 
in his chest that was worse with lying down on his side and 
coughing. His chest pain seemed to wax and wane over the next 
two days but around the same time developed bilateral lower 
extremity swelling
with erythema and tenderness that initially improved but 
dramatically worsened on the day prior to admission. He denies 
any fever/chills, abrasions or bug bites on legs, water 
exposure, or recurrent skin infections. Besides his chest pain, 
he denies any shortness of breath, orthopnea, PND. Also denies 
any prior
episodes of leg swelling.

At ___, patient had an ECG with NSR and possible q-waves 
in the inferior leads but otherwise no acute ischemic changes. 
Trop was negative x2. BNP was mildly elevated to 190. Given 
concern for PE with ___ edema, d-dimer was sent and was mildly 
elevated to 0.96. CTA chest was done and negative for PE and he 
was transferred to ___ ED for cardiac consultation. Cardiology 
was consulted in the ED here and felt presentation was most 
likely consistent with MSK pain and unlikely coronary vasospasm, 
pericarditis, or ACS. Exam was also inconsistent with new heart 
failure but recommended TTE to rule out.

While in the ED, patient was further worked up for possible 
cellulitis of lower extremities. He had no leukocytosis or fever 
but noted to have an elevated CRP and ultimately had a CT of 
bilateral lower extremities which showed diffuse subcutaneous 
edema in ankles and feet with edema seen tracking between left
gastrocnemius and soleus concerning for possible deep tissue 
infection/nec fasc.
Surgery was urgently consulted in the ED who felt by exam was 
inconsistent with nec fasc and patient did not require surgical 
intervention. Patient was started on Vanc/Zosyn and clindamycin 
and admitted for further treatment of cellulitis.

On arrival to the floor, patient states he his leg pain and 
erythema have improved significantly after getting antibiotics. 
He states he still is having intermittent chest pains but denies 
any shortness of breath. 

 
Past Medical History:
Asthma - exercise-induced as a child. Has been hospitalized in
past but never intubated.
 
Social History:
___
Family History:
Several members on mother and fathers side with CAD. Unclear 
what age diagnosed. Cancer on both sides of family in multiple 
family members. No history of autoimmune disease in family.
 
Physical Exam:
ADMISSION EXAM:
___ 0057 Temp: 99.6 PO BP: 131/68 HR: 83 RR: 18 O2 sat: 95% 
O2 delivery: RA Dyspnea: 6 RASS: 0 Pain Score: ___ 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Scattered inspiratory wheezes. No rhonchi or rales. No 
increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES:  R>L edema (2+) in feet and ankles with patchy 
erythema and warmth and exquisite tenderness especially over 
right dorsum and left calf. 2+ peripheral pulses (radials, DPs)
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Decreased sensation in 
right dorsal foot.

DISCHARGE EXAM:
VITALS: 24 HR Data 
Temp: 97.6 (Tm 98.0), BP: 120/79 (106-145/84/62-79), HR: 78 
(64-91), RR: 18, O2 sat: 98% (95-99), O2 delivery: Ra
GENERAL: Alert and interactive. 
HEENT: PERRL.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. 
LUNGS: Scattered wheezes bl. No rhonchi or rales.
EXTREMITIES: No lower extremity edema bilaterally. 2+ peripheral 
pulses.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Sensation to light touch 
intact in bilateral feet.
 
Pertinent Results:
ADMISSION LABS:

___ 04:52PM BLOOD WBC-7.2 RBC-5.00 Hgb-14.2 Hct-43.1 MCV-86 
MCH-28.4 MCHC-32.9 RDW-12.8 RDWSD-40.0 Plt ___
___ 04:52PM BLOOD Neuts-56.3 Lymphs-17.5* Monos-14.9* 
Eos-10.3* Baso-0.7 Im ___ AbsNeut-4.05 AbsLymp-1.26 
AbsMono-1.07* AbsEos-0.74* AbsBaso-0.05
___ 04:52PM BLOOD Glucose-107* UreaN-8 Creat-0.8 Na-140 
K-4.4 Cl-104 HCO3-23 AnGap-13
___ 04:52PM BLOOD ALT-21 AST-27 CK(CPK)-85 AlkPhos-54 
TotBili-0.4
___ 04:52PM BLOOD cTropnT-<0.01
___ 04:52PM BLOOD Albumin-3.8 Calcium-8.6 Phos-2.8 Mg-2.0
___ 04:57PM BLOOD Lactate-1.4

REPORTS:
___ CT LOWER EXTREMITIES:
Diffuse subcutaneous edema in the anterior aspect of the ankles 
and volar 
aspect of the feet, worse on the right. Mild subcutaneous fat 
and edema involving both legs from mid calf to the foot, worse 
on the left.  Edema is seen tracking between the left 
gastrocnemius and soleus. Findings may be related to cellulitis. 
Given deeper involvement with edema along the fascial planes on 
the left, necrotizing fasciitis cannot be entirely excluded. No 
subcutaneous gas. No drainable collections. 

___ TTE:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal
cavity size. There is normal regional left ventricular systolic 
function. Overall left ventricular systolic function is low 
normal. Quantitative biplane left ventricular ejection fraction 
is 50 % (normal 54-73%). There is no resting left ventricular 
outflow tract gradient. Transmitral and tissue Doppler suggests 
normal diastolic function, and a normal left ventricular filling 
pressure (PCWP less than 12 mmHg). Normal right ventricular 
cavity size with normal free wall motion. Tricuspid annular 
plane systolic excursion (TAPSE) is normal. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. The pulmonary 
artery systolic pressure could
not be estimated. There is no pericardial effusion.

DISCHARGE LABS/PERTINENT LABS:

___ 06:20AM BLOOD WBC-6.2 RBC-5.32 Hgb-15.1 Hct-45.5 MCV-86 
MCH-28.4 MCHC-33.2 RDW-12.9 RDWSD-40.1 Plt ___
___ 06:20AM BLOOD Neuts-41.8 ___ Monos-8.4 
Eos-19.6* Baso-0.8 Im ___ AbsNeut-2.58 AbsLymp-1.80 
AbsMono-0.52 AbsEos-1.21* AbsBaso-0.05
___ 06:20AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-140 
K-4.3 Cl-105 HCO3-22 AnGap-13
___ 10:24AM BLOOD TotProt-7.5 Albumin-4.4 Globuln-3.1
___ 06:20AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.0
___ 10:49AM BLOOD RBC Mor-WITHIN NOR
___ 10:24AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 01:10PM BLOOD ANCA-NEGATIVE
___ 06:20AM BLOOD RheuFac-<10
___ 04:52PM BLOOD CRP-63.9*
___ 01:10PM BLOOD ___
___ 06:20AM BLOOD IgG-906 IgA-298 IgM-91
___ 06:20AM BLOOD C3-140 C4-31
___ 01:10PM BLOOD HIV Ab-NEG
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
[ ] f/u CBC w/ diff (looking for eosinophil count, will be in BI 
___ chart)
[ ] conduct peak flow at outpatient follow-up visit
[ ] needs to be immunized for hep B (negative for hep B surface 
antigen)
[ ] continue counseling on cessation of alcohol, cocaine, and 
marijuana use
[ ] repeat TTE in 3 months

___ with history of asthma, substance use (binge alcohol 
drinking, daily intranasal cocaine use and marijuana use) who 
presents with two days of pleuritic chest pain and pressure, and 
significant bilateral lower extremity edema, who had negative 
trop, BNP 190 at ___, transferred here for further 
management of his lower extremity edema. 

# Bilateral Lower Extremity Swelling/Pain/Erythema, resolved
# Right dorsal foot sensory neuropathy, resolved
# Mildly enlarged right paratracheal node per CT chest
# Eosinophilia

Patient endorsed bilateral lower extremity swelling, pain, 
erythema on admission. No fever, chills, recent travel or 
exposure history. Pertinent diagnostics during this admission: 
TTE with borderline LVEF at 50%. LENIs negative. CT lower 
extremity with edema tracking between the left gastrocnemius and 
soleus with report indicating concern for cellulitis/fasciitis. 
Alb 3.8. Urine Pr/Cr 0.1. UA neg. Normal LFT's. HIV neg. Neg ___ 
and ANCA. Normal complement. Normal immunoglobulins. CRP 64, ESR 
7. IgE level ___. 

Unclear etiology. Differential at time of discharge includes 
vasculitis (EGPA, Polyarteritis nodosa, Levimasole induced ___ 
cocaine use), sarcoid, connecting tissue disorder, 
paraneoplastic syndrome (though less likely, no signs or 
symptoms, no lab or imaging evidence of malignancy). Unlikely to 
be cellulitis given bilateral nature and lack of 
fever/leukocytosis. Considered both erythema nodosum and 
leukocytoclastic vasculitis that may mimic cellulitis but deemed 
less likely. Given vanc/zosyn/clinda in the ED for possible 
cellulitis, but given lack of fever/leukocytosis, antibiotics 
were subsequently discontinued. Given CT lower extremity 
findings, surgery was consulted in the ED and thought low 
suspicion for necrotizing fasciitis. At time of discharge, lower 
extremity swelling and tenderness had resolved. Eosinophilia had 
downtrended without intervention. Given his resolution of 
symptoms, primary team felt comfortable discharging patient and 
ensuring close outpatient followup. Patient should have repeat 
CBC w/ diff within ___ days. If he has development of lower 
extremity edema in the future with skin lesions, he should have 
derm biopsy. 

# Chest pain, resolved. 
No acute cardiac or intrathoracic issue. Workup included a 
negative CT-PE, negative LENIs, normal troponin. Lack of trop 
elevation argues against myocarditis, cocaine-induced ACS, 
vasospasm. Likely muscle strain from coughing. 

# ETOH - Binge drinking
# Cocaine use
# Marijuana use 
Stated he usually drinks ___ per week and typically binge 
drinks up to 20 beers a night. Prior to admission, he was using 
cocaine daily (but not over the proceeding week). Also was using 
marijuana daily. Counseled on complete abstinence of alcohol, 
cocaine, and marijuana use. 

# Asthma
No reported dyspnea but mild wheezing bilaterally on exam. After 
discussions with the patient, it seemed that the patient was 
unaware about when his asthma was flaring up. Should get PFTs 
done as an outpatient. Discharged out on albuterol nebs prn and 
fluticasone inhaler BID. Should have peak flow done at 
outpatient followup visit. 

# Slightly decreased LVEF on TTE
EF 50%. History of alcohol use. Initial presentation with 
bilateral lower extremity swelling, unlikely to be secondary to 
heart failure. Suggest repeat TTE in 3 months to assess EF 
(young male, should have normal EF). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Fluticasone Propionate NASAL 1 SPRY NU BID allergy 
RX *fluticasone propionate [Flonase Allergy Relief] 50 
mcg/actuation 1 puff nasal twice a day Disp #*1 Spray Refills:*1 

3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.Outpatient Lab Work
CBC w/ diff
Diagnosis: hypereosinophilia
ICD___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Lower extremity edema 
Transient peripheral neuropathy
Atypical chest pain

Secondary diagnosis:
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital with leg swelling and chest pain. 

For the leg swelling, we sent many diagnostic tests, which have 
been unrevealing thus far. It is possible that you had some 
inflammation of your blood vessels causing these symptoms. Your 
chest pain had resolved prior to discharge, and we thought this 
was a result of a muscle strain. 

After leaving the hospital, we urge you to stop all alcohol, 
cocaine, and marijuana use. You should follow-up at your next 
scheduled appointment. Make sure you have your cell count 
checked at ___. Take your medications as prescribed.

We wish you the best,
___
 
Followup Instructions:
___